US06984653B2
(ii) Production of 4-[[4-[4-[2-[2-(methylsulfinyl)ethyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazole
Using 4-[[4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazole (250 mg) and 70% m-chloroperbenzoic acid (114 mg), the same reaction as Example 11-(ii) was carried out to yield the titled compound (190 mg) as a colorless amorphous form.

reactant | 4-[[4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazole | 250 mg | CSCCC=1N(C=CN1)CCCCC1=CC=C(OCC=2N=C(OC2)\C=C\C2=CC=C(C=C2)C(F)(F)F)C=C1 | C29H30F3N3O2S
reactant | m-chloroperbenzoic acid | 114 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 4-[[4-[4-[2-[2-(methylsulfinyl)ethyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazole | 190 mg | CS(=O)CCC=1N(C=CN1)CCCCC1=CC=C(OCC=2N=C(OC2)\C=C\C2=CC=C(C=C2)C(F)(F)F)C=C1 | C29H30F3N3O3S
